US04145253
In this example, 10 g of the free base of Fortimicin D is dissolved in 500 ml of aqueous solution of saturated barium hydroxide. The solution is heated at a temperature of 100° C. for 3 hours and thereafter is allowed to stand until it is cooled to room temperature. The solution is neutralized with dry ice to precipitate the barium carbonate out. Filtration is carried out to remove the precipitate and the precipitate is washed with a small amount of water. The filtrate and the washings are combined and concentrated to about 20 ml. The concentrate is passed through a column packed with 500 ml of a cation exchange resin, Amberlite CG-50 (ammonium form). After the resin is washed with water, elution is carried out with 0.2N aqueous ammonia. The eluate is recovered in 20 ml fractions and each of the fractions is subjected to determination of activity by the paper disc method. First, a small amount of reaction by-products is eluted. Thereafter, Fortimicin KE is eluted. Active fractions are subjected to thin layer chromatography and the fractions containing Fortimicin KE are combined and concentrated under reduced pressure to 20 ml. The concentrate is freeze-dried to obtain 7.8 g of the purified preparate of the free base to Fortimicin KE, the activity of which is about 970 unit/mg.

reactant | Fortimicin D | CN([C@H]1[C@H]([C@@H]([C@H]([C@@H]([C@@H]1OC)O)N)O[C@@H]2[C@@H](CC[C@H](O2)CN)N)O)C(=O)CN | C16H33N5O6
reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
reactant | dry ice | C(=O)=O | CO2
product | Fortimicin KE | CN[C@H]1[C@H]([C@@H]([C@H]([C@@H]([C@@H]1OC)O)N)O[C@@H]2[C@@H](CC[C@H](O2)CN)N)O | C14H30N4O5
